datasets/10k__Tet_Int.csv
SMILES Labelled
"[NH:10]([H])C(C)C([H])/C(C)=C([H])\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])=C(C)C([H])C(C)[NH+:10]1([H]) 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(CC)[NH]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH]([H])[O]1 10=20;20,21=21"
"[O:10]([K])C([H])C([H])C([H])C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C([H])C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(CC)[O][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][O:10]C(CC)C(CC)[O][C:20]([O]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC 10=20;20,21=21"
"[H][S:10]C([H])C([H])[S][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])[S]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C([H])[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([NH:21]C)([O][H])[NH]C.[Cl-]>>[Cl-].[H][O:10][H].C[NH+:21]=[C:20]([O][H])[NH]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C)C)CCCCCC.[O-:21]C>>CC1C(C(O[C:20](N1C)([O-:10])[O:21]C)C)CCCCCC 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC)CC.[O-:21]CCCCCC>>[H]N([C:20]([O-:10])(OC)[O:21]CCCCCC)CC 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CC)CC>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CC)[O-:10])CC 21=20;20,10=10"
"[H][S:10]C(CC)C([H])[S][C:20]([S][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[S][H] 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CC)C)C.[O-:21][H]>>[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])C)C 21=20;20,10=10"
"[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"[H][O+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10](C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)[H])[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)[H])C1=CC=CC=C1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]CC)[NH][H].[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]CC)[NH][H] 21=20;20,10=10"
"[O:10]([K])C(C)C(C)C(C)C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C(C)C(C)C(C)[O+:10]1([K]) 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)[H])CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)[H])CC.[O-:21]CCCCCC 10=20;20,21=21"
"[NH:10](C)C(C(C1=C(C=CC=C1)[CH:20](C)=[O:21])[H])[H]>>[O-:21][CH:20]2(C)C3=C(C(C([NH+:10]2(C))[H])[H])C=CC=C3  10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21][H])([NH][H])[NH][H].[Cl-]>>[Cl-].C[NH:10][H].[H][NH+:21]=[C:20]([NH][H])[NH][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]CC)[NH]CC.[Cl-]>>[Cl-].C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]CC)[NH]CC 21=20;20,10=10"
"[H]N([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)CC)[H]>>[H]N([C:20](=[O:10])CC)[H].C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)[O+:10]([Na])C(C)C(C)=C1O>>[O:10]([Na])C(C)/C(C)=C([C:20](OC)=[O:21])/O 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)[H]>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CCCCCC)[H].[O-:21]CC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[S][C:20]([O]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O+:10]([K])[C:21]([O-:20])(OC)OC>>[O:20]=[C:21](OC)OC.[H][O:10][K] 20=21;21,10=10"
